US07384983B2
An oven dried, three-necked, 2-L, round-bottomed flask was charged with (S)-3-chloro-1-phenyl-propanol (52 g, 304 mmol), 4-((tert-butoxycarbonyl)oxy)-2-methylphenol (73.86 g, 329 mmol), triphenylphosphine (87.36 g, 333 mmol) and anhydrous tetrahydrofuran (600 ml). The reaction mixture was cooled at 0° C., and a solution of diisopropylazadicarbox-ylate (76 ml, 365 mmol,) in dry tetrahydrofuran (100 mL) was added over 6 hours. The reaction mixture was stirred for an additional two hours at 0° C. and was then allowed to warm gradually to room temperature. The reaction mixture was further stirred at room temperature for 24 hours and the reaction mixture was concentrated under reduced pressure. The residue was treated with 2 L of 9:1 pentane:ethyl acetate. The resulting suspension was stored at −20° C. for 24 hours and the insoluble materials were removed by filtration. The precipitate was washed with 9:1 pentane:ethyl acetate (200 mL). The combined filtrates were concentrated under reduced pressure. The crude residue (150 grams) was purified by 150 flash Biotage pre-packed column eluting with 3% ethyl acetate in hexane to provide (R)-3-chloro-1-phenyl-1-(2-methyl-4-((tert-butoxycarbonyl)oxy)-phenoxy)propane (100 g) in 85% yield.

reactant | (S)-3-chloro-1-phenyl-propanol | 304 mmol, 52 g | ClCC[C@H](O)C1=CC=CC=C1 | C9H11ClO
reactant | 4-((tert-butoxycarbonyl)oxy)-2-methylphenol | 329 mmol, 73.86 g | C(C)(C)(C)OC(=O)OC1=CC(=C(C=C1)O)C | C12H16O4
reactant | triphenylphosphine | 333 mmol, 87.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | (R)-3-chloro-1-phenyl-1-(2-methyl-4-((tert-butoxycarbonyl)oxy)-phenoxy)propane | 100 g, 85% yield | ClCC[C@@H](OC1=C(C=C(C=C1)OC(=O)OC(C)(C)C)C)C1=CC=CC=C1 | C21H25ClO4
